US06022492
Synthesis of 2-(4-butoxy-2,3-difluorophenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine
The etherification of 2.4 mmol of 2-(2,3-difluoro-4-hydroxyphenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine using 2.7 mmol of 1-bromobutane is carried out analogously to the procedure indicated for Example 3. Corresponding purification gives 0.76 g (69%) of colorless crystals, X 85 SC 156 SA 180 I.

reactant | 2-(2,3-difluoro-4-hydroxyphenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine | 2.4 mmol | FC1=C(C=CC(=C1F)O)C1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCCCC | C23H25F2N3O2
reactant | 1-bromobutane | BrCCCC | C4H9Br
product | 2-(4-butoxy-2,3-difluorophenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine | 0.76 g, 69% | C(CCC)OC1=C(C(=C(C=C1)C1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCCCC)F)F | C27H33F2N3O2
